US07312330B2
2-(4-(7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ylamino)phenyl)-2-methylpropanenitrile
A mixture of 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (40 mg, 0.14 mmol), 2-(4-aminophenyl)-2-methylpropanenitrile (100 mg, 0.63 mmol) (prepared according to the reference: Axton, C. A. et al, J. Chem. Soc. Perkin Trans. 1, 1992, 2203.), and acetonitrile (0.5 mL) was heated in a sealed tube via microwave at 180° C. for 60 min. The solvent was removed in vacuo and the residue was purified by chromatography to give a light yellow solid (50 mg).

reactant | 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.14 mmol, 40 mg | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2Cl | C12H10Cl2N4
reactant | 2-(4-aminophenyl)-2-methylpropanenitrile | 0.63 mmol, 100 mg | NC1=CC=C(C=C1)C(C#N)(C)C | C10H12N2
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 2-(4-(7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ylamino)phenyl)-2-methylpropanenitrile | 50 mg | ClC=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C(C=C1)C(C#N)(C)C | C22H21ClN6
